US06794389B2
(1R,2S)-N-[N,N′-Bis(tert-butoxycarbonyl)]amidino-2-(2-amino-6-methoxyquinazolin-4-yl)aminocyclohexylamine
A solution of 1.76 g of (1R,2S)-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-[2-(4-methoxybenzylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine in 80 mL of methylene chloride was combined with 3.17 g of N-methylmorpholine-N-oxide and 95 mg of tetrapropylammonium perruthenate, and stirred for 9 hours. The reaction solution was combined with water, extracted with methylene chloride, and dried. After the solvent was distilled off, the residue was purified by column chromatography on silica gel (chloroform:methanol 10:1) to obtain 0.95 g of the desirable compound.

reactant | (1R,2S)-N-[N,N′-bis(tert-butoxycarbonyl)]amidino-2-[2-(4-methoxybenzylamino)-6-methoxyquinazolin-4-yl]aminocyclohexylamine | 1.76 g | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)NCC1=CC=C(C=C1)OC | C34H47N7O6
reactant | N-methylmorpholine-N-oxide | 3.17 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | O | H2O
solvent | methylene chloride | 80 mL | C(Cl)Cl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 95 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | (1R,2S)-N-[N,N′-Bis(tert-butoxycarbonyl)]amidino-2-(2-amino-6-methoxyquinazolin-4-yl)aminocyclohexylamine | 0.95 g | C(C)(C)(C)OC(=O)NC(=NC(=O)OC(C)(C)C)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)N | C26H39N7O5
